US07160949B2
[Copolymerization of Ethylene/Norbornene]
In a nitrogen atmosphere at room temperature, 600 ml of a cyclohexane solution containing 20 g of norbornene was placed in a 1-liter stainless steel autoclave purged thoroughly with nitrogen. 0.6 mmol of triisobutylaluminum was added, and nitrogen in the autoclave was replaced with ethylene. The inside of the autoclave was pressurized with ethylene, and then the temperature in the autoclave was raised so that the temperature and the pressure in the autoclave were 70° C. and 0.7 MPa, respectively. 12.8 ml of the above catalyst solution was forced into the autoclave with pressurized nitrogen to initiate the polymerization. After the initiation of the polymerization, with supplying only ethylene, the polymerization was conducted at a pressure of 0.7 MPa and a temperature of 70° C. for 5 min. After 5 min from the initiation of the polymerization, 5 ml of isopropanol was forced into the autoclave with pressurized nitrogen to terminate the polymerization. After decompression, the polymer solution was taken out. With vigorously agitating by a homomixer, the polymer solution was brought into contact with an aqueous solution adding 5 ml of concentrated hydrochloric acid based on 1 liter of water at a ratio of 1 to 1, and the catalyst residue was passed into the water phase. The contacted mixed solution was allowed to stand still, and then the water phase was removed. The polymer solution was washed twice with water to purify the same, and the phase of the polymer solution was separated. The purified and separated polymer solution was allowed to contact with acetone, which was three times as much as the polymer solution, with vigorously agitating. After the precipitation of the copolymer, the solid product (copolymer) was collected by filtration and was thoroughly washed with acetone. To extract unreacted norbornene remaining in the polymer, the solid product was put in acetone so as to be a concentration of 40 g/liter, and the extraction was conducted at 60° C. for 2 hr. After the extraction, the solid product was collected by filtration and was dried under reduced pressure in flowing nitrogen at 130° C. and 350 mmHg for 12 hr.

reactant | norbornene | 20 g | C12C=CC(CC1)C2 | C7H10
reactant | triisobutylaluminum | 0.6 mmol | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | ethylene | C=C | C2H4
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | water | O | H2O
solvent | water | 1 liter | O | H2O
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
solvent | cyclohexane | 600 ml | C1CCCCC1 | C6H12
product | Ethylene/Norbornene | C=C.C12C=CC(CC1)C2 | InChI=1S/C7H10.C2H4/c1-2-7-4-3-6(1)5-7;1-2/h1-2,6-7H,3-5H2;1-2H2
